US06649609B2
Ethyl 2,4-difluoro-5-nitrobenzoate (22).
To a cooled (−5-0° C.) solution of ethyl 2,4-difluorobenzoate (3.4 g; 18.3 mmol) in conc. sulphuric acid (6 ml) was added potassium nitrate (1.94 g; 19.2 mmol) in small portions over one hour −5° C. Following the addition the temperature was allowed to raise to 20° C. over 4.5 hours. The mixture was poured into ice-water with vigorous stirring. The product was filtered off, washed with water and air-dried. Yield: 3.2 g (76%).

reactant | ethyl 2,4-difluorobenzoate | 18.3 mmol, 3.4 g | FC1=C(C(=O)OCC)C=CC(=C1)F | C9H8F2O2
reactant | potassium nitrate | 19.2 mmol, 1.94 g | [N+](=O)([O-])[O-].[K+]
solvent | sulphuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
product | Ethyl 2,4-difluoro-5-nitrobenzoate | FC1=C(C(=O)OCC)C=C(C(=C1)F)[N+](=O)[O-] | C9H7F2NO4
